US06649611B2
(2R, 5S)-5-Chloro-2-{2-[4-(4-fluoro-benzyl)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-benzoic acid methyl ester
To a solution of (2R, 5S)-2-chloro-1-[4-(4-fluoro-benzyl)-2,5-dimethyl-piperazin-1-yl]-ethanone (2.75 g, 9.2 mmol) in butanone (50 ml) was added methyl 5-chloro-2-hydroxybenzoate (1.55 g, 9.2 mmol), potassium carbonate (2.54 g, 18.4 mmol) and potassium iodide (1.52 g, 9.2 mmol). The resulting mixture was stirred at reflux for 6 hours. The reaction was then cooled, diluted with ethyl acetate, and washed with brine. The organics were dried over magnesium sulfate, filtered and concentrated in vacuo to give an orange oil. Chromatography on silica gel gave the title compound (4.1 g, 100% yield).

reactant | (2R, 5S)-2-chloro-1-[4-(4-fluoro-benzyl)-2,5-dimethyl-piperazin-1-yl]-ethanone | 9.2 mmol, 2.75 g | ClCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C | C15H20ClFN2O
reactant | methyl 5-chloro-2-hydroxybenzoate | 9.2 mmol, 1.55 g | ClC=1C=CC(=C(C(=O)OC)C1)O | C8H7ClO3
reactant | potassium carbonate | 18.4 mmol, 2.54 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 9.2 mmol, 1.52 g | [I-].[K+]
solvent | butanone | 50 ml | CC(CC)=O | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2R, 5S)-5-Chloro-2-{2-[4-(4-fluoro-benzyl)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-benzoic acid methyl ester | 4.1 g, 100% yield | COC(C1=C(C=CC(=C1)Cl)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C)=O | C23H26ClFN2O4
